US07723333B2
2-ter-Butyl-4-(isopropylamino)-5-phenylisothiazol-3(2H)-one 1,1-dioxide
2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.175 g, 0.58 mmol), isopropylamine (0.041 g, 0.69 mmol) and TEA (0.23 g, 2.31 mmol) was dissolved in dry DMF (3 ml) and heated in a microwave reactor at 130° C. for 30 mins. The reaction mixture was purified by preparative HPLC to yield the title compound (0.108 g, 58%). 1H NMR (500 MHz, CDCl3): δ 7.52-7.46 (m, 2H), 7.44-7.38 (m, 3H), 5.16-5.04 (m, 1H), 3.34-3.22 (m, 1H), 1.71 (s, 9H), 0.94 (d, 6H); 13C NMR (125 MHz, CDCl3): δ 160.1, 134.2, 131.7, 129.8, 128.9, 125.6, 106.5, 61.6, 44.8, 27.8, 23.0; Mass Spectrum: M−H+ 323.

reactant | 2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.58 mmol, 0.175 g | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | isopropylamine | 0.69 mmol, 0.041 g | C(C)(C)N | C3H9N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-ter-Butyl-4-(isopropylamino)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.108 g, 58% | C(C)(C)(C)N1S(C(=C(C1=O)NC(C)C)C1=CC=CC=C1)(=O)=O | C16H22N2O3S
